* Passive RC Band-Pass Filter
Vin in 0 AC 1
C1 in n1 159n
R1 n1 0 1k
R2 n1 out 1k
C2 out 0 159n
.ac dec 100 10 1Meg

.control
set noaskquit
save all
run
.endc

.end

