* Common Gate Amplifier
Vdd vdd 0 DC 5
Vin in 0 AC 1 SIN(0 10m 1k)
Vbias gate 0 DC 2
Rd vdd out 10k
M1 out gate in 0 NMOS
Rs in 0 1k
.model NMOS NMOS LEVEL=1 VTO=1 KP=1m LAMBDA=0.02 KF=0 AF=1
.op
.ac dec 100 10 10Meg

.control
set noaskquit
save all
run
.endc

.end

