* Single-stage common-source amplifier
.model NMOS NMOS (level=1)
M1 out in 0 0 NMOS w=10u l=0.18u
R1 vdd out 10k
Vdd vdd 0 1.8
Vin in 0 0.9
.end
