* Simplified Low Noise Amplifier
Vdd vdd 0 DC 3.3
Vin in 0 AC 1 SIN(0 1m 1Meg)
Lg in gate 10n
M1 out gate 0 0 NMOS
Ld vdd out 100n
Rload out 0 1k
.model NMOS NMOS LEVEL=1 VTO=0.7 KP=5m LAMBDA=0.02 KF=0 AF=1
.op
.ac dec 100 1k 1Gig

.control
set noaskquit
save all
run
.endc

.end

