* Voltage Controlled Oscillator Approximation
Vctrl ctrl 0 DC 1
Bosc out 0 V = sin(2*3.14159*(1e6+1e6*V(ctrl))*time)
Rload out 0 1k
.tran 10n 20u

.control
set noaskquit
save all
run
.endc

.end

