* Cascode current mirror
Vdd vdd 0 DC 5
Iref vdd ref DC 100u
Vbias bias 0 DC 2.5
M1 n1 ref 0 0 NMOS
M2 ref bias n1 0 NMOS
M3 n2 ref 0 0 NMOS
M4 out bias n2 0 NMOS
Rload vdd out 20k
.model NMOS NMOS LEVEL=1 VTO=1 KP=1m
.op
.end
